US07022725B2
To a solution of diethyl malonate (10.1 g) in tetrahydrofuran (60 ml) was gradually added sodium hydride (60%, oil, 2.29 g) at 0° C. The mixture was stirred for 10 min and a solution of 4-chloromethyl-5-(5-chloro-2-thienyl)isoxazole (6.70 g) in tetrahydrofuran (60 ml) was added dropwise at 0° C. The mixture was stirred at room temperature for 15 hr. The reaction mixture was acidified by pouring into 2N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was concentrated and the residue was dissolved in a mixture of 6N hydrochloric acid (80 ml) and acetic acid (120 ml). The mixture was heated under reflux for 8 hr. The reaction mixture was concentrated, and water was added to the residue. The obtained colorless crystals were filtrated, dried and recrystallized from ethyl acetate to give a colorless prism (4.95 g, yield 67%) of 3-[5-(5-chloro-2-thienyl)-4-isoxazolyl]propionic acid. melting point: 138–139° C.

reactant | diethyl malonate | 10.1 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 2.29 g | [H-].[Na+]
reactant | 4-chloromethyl-5-(5-chloro-2-thienyl)isoxazole | 6.70 g | ClCC=1C=NOC1C=1SC(=CC1)Cl | C8H5Cl2NOS
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-[5-(5-chloro-2-thienyl)-4-isoxazolyl]propionic acid | 4.95 g, yield 67% | ClC1=CC=C(S1)C1=C(C=NO1)CCC(=O)O | C10H8ClNO3S
